US05077409
4-Hexadecyloxyphenoxyacetyl chloride
A mixture of 13.2 g of [4-(hexadecyloxy)phenoxy]acetic acid, 6.4 g of oxalyl chloride, 225 ml of methylene chloride and 5 drops of N,N-dimethylformamide is stirred at ambient temperature for 17 hours. The solvent is evaporated to a residue which is dissolved in ether and filtered through diatomaceous earth. The filtrate is evaporated to give 13.9 g of the desired product as a white solid.

reactant | [4-(hexadecyloxy)phenoxy]acetic acid | 13.2 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)O)C=C1 | C24H40O4
reactant | oxalyl chloride | 6.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 225 ml | C(Cl)Cl | CH2Cl2
product | 4-Hexadecyloxyphenoxyacetyl chloride | 13.9 g | C(CCCCCCCCCCCCCCC)OC1=CC=C(OCC(=O)Cl)C=C1 | C24H39ClO3
